US04473395
5-(p-Chlorophenyl)-2-methyl-3-ethoxycarbonylpyridine N-oxide (Compound 54)
Hydrogen peroxide (100 vol.; 65.6 ml) was added to glacial acetic acid (250 ml) with stirring and the solution was heated to 50°. 5-(p-Chlorophenyl-2-methyl-3-ethoxycarbonylpyridine (27.55 g) was added and the solution stirred at 50°-55° for 16 hours. The volume of the solution was halved by evaporation in vacuo at below 50° C., and the mixture was then poured into water and neutralised with 2M-sodium hydroxide. The precipitate so formed was filtered off and washed with water to give a white solid which was recrystallied from carbon tetrachloride to give, as white crystals, the title compound, m.p. 130°.

reactant | Hydrogen peroxide | 65.6 ml | OO | H2O2
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | p-Chlorophenyl-2-methyl-3-ethoxycarbonylpyridine | 27.55 g | ClC1=C(C(=NC=C1C1=CC=CC=C1)C)C(=O)OCC | C15H14ClNO2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(p-Chlorophenyl)-2-methyl-3-ethoxycarbonylpyridine N-oxide | ClC1=CC=C(C=C1)C=1C=C(C(=[N+](C1)[O-])C)C(=O)OCC | C15H14ClNO3
